US08685993B2
Preparation of intermediate 1-(4′-(cyclopropylmethyl)-2-(methylsulfinyl)-4,5′-bipyrimidin-2′-ylamino)-2-methylpropan-2-ol (5-3)
To a solution of 1-(4′-(Cyclopropylmethyl)-2-(methylthio)-4,5′-bipyrimidin-2′-ylamino)-2-methylpropan-2-ol (90 mg, 0.261 mmol) in DCM (521 μl), mCPBA (70.6 mg, 0.287 mmol) was added in portions, and the reaction mixture was stirred at rt for 1 h. The crude product was purified by a Biotage silica gel chromatography [10 g SNAP column, 100% DCM to 12% MeOH/DCM] to obtain the desired product as a yellow solid (38 mg, 40% yield). MS (ES+): m/z=362.2 (100) [MH+]. HPLC: tR=0.90 min over 3 min. Purity: 100% [HPLC (LC/MS) at 220 nm].

reactant | 1-(4′-(Cyclopropylmethyl)-2-(methylthio)-4,5′-bipyrimidin-2′-ylamino)-2-methylpropan-2-ol | 0.261 mmol, 90 mg | C1(CC1)CC1=NC(=NC=C1C1=NC(=NC=C1)SC)NCC(C)(O)C | C17H23N5OS
reactant | mCPBA | 0.287 mmol, 70.6 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 521 μl | C(Cl)Cl | CH2Cl2
product | 1-(4′-(cyclopropylmethyl)-2-(methylsulfinyl)-4,5′-bipyrimidin-2′-ylamino)-2-methylpropan-2-ol | 38 mg, 40% yield | C1(CC1)CC1=NC(=NC=C1C1=NC(=NC=C1)S(=O)C)NCC(C)(O)C | C17H23N5O2S
